US08030305B2
4-Nitrophenylacetic acid hydrazide
A solution of 4-nitrophenylacetic acid (2.81 mmol) in dry dichloromethane (10 ML) was treated with a 2N solution of oxalyl chloride (3.0 mL) and DMF (0.02 mL) via syringe, and the reaction stirred at ambient temperature for 1 h. The reaction was concentrated to dryness in vacuo and the crude product was dissolved in dry dichloro-methane (20 mL), treated with anhydrous hydrazine (11.1 mmol) via syringe, and stirred at ambient temperature for 18 h. The resulting suspension was filtered, solids rinsed with dichloromethane, dissolved in MeOH/CH2Cl2, filtered, and filtrate concentrated in vacuo giving the title compound as an orange solid. 1H NMR (DMSO-d6) δ 8.17 (2H, d, J=8.8 Hz,), 7.54 (2H, d, J=8.8 Hz), 3.54 (2H, s).

reactant | 4-nitrophenylacetic acid | 2.81 mmol | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | oxalyl chloride | 3.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.02 mL | CN(C)C=O | C3H7NO
reactant | hydrazine | 11.1 mmol | NN | H4N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Nitrophenylacetic acid hydrazide | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)NN | C8H9N3O3
